US05620569
The hydroperoxide resulting from terpinolene can be reduced to p-mentha-1,8-dien-4-ol and this can be selectively catalytically hydrogenated to give 4-terpineol.

reactant | hydroperoxide | [O-]O
reactant | terpinolene | CC1=CCC(=C(C)C)CC1 | C10H16
reactant | p-mentha-1,8-dien-4-ol | C1(=CCC(CC1)(C(=C)C)O)C | C10H16O
product | 4-terpineol | CC1=CCC(CC1)(C(C)C)O | C10H18O
